US04325953
2-(1-Methyl-4-phenyl-4-piperidinyloxy)pyridine
A solution of 1-methyl-4-phenyl-4-piperidinol (prepared by reaction of 1-methyl-4-piperidone with phenyl lithium; 3.83 g, 20 mM) in dry DMSO (50 ml) was treated with sodium hydride (960 mg of 50% dispersion in oil, 20 mM), stirred for 1 hour then treated with 2-fluoro-pyridine (1.94 g, 20 mM). After 48 hours the reaction was poured on to water (200 ml) and extracted with ether (3×200 ml). The organic extract was washed with brine, dried and the solvent removed under reduced pressure. Recrystallisation of the residue from cyclohexane gave the title compound (2.0 g,) m.p. 95°-6° C.

reactant | 1-methyl-4-phenyl-4-piperidinol | 20 mM, 3.83 g | CN1CCC(CC1)(O)C1=CC=CC=C1 | C12H17NO
reactant | sodium hydride | 20 mM, 960 mg | [H-].[Na+]
reactant | 2-fluoro-pyridine | 20 mM, 1.94 g | FC1=NC=CC=C1 | C5H4FN
reactant | water | 200 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 2-(1-Methyl-4-phenyl-4-piperidinyloxy)pyridine | 2.0 g | CN1CCC(CC1)(OC1=NC=CC=C1)C1=CC=CC=C1 | C17H20N2O
